US08133882B2
0.14 ml of N-(chlorocarbonyl) isocyanate was added dropwise at −50° C. to a 4 ml THF solution of 110 mg of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-[(hydroxyamino)methyl]quinolin-4(1H)-one, followed by stirring at room temperature for 1 hour. 1 M hydrochloric acid was added to the reaction mixture, followed by extraction with chloroform and washing with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography to obtain 45 mg of 2-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}-1,2,4-oxadiazolidine-3,5-dione.

reactant | N-(chlorocarbonyl) isocyanate | 0.14 ml | C(=NC(=O)Cl)=O | C2ClNO2
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-3-[(hydroxyamino)methyl]quinolin-4(1H)-one | 110 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CNO)=O)F | C21H28FN3O2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}-1,2,4-oxadiazolidine-3,5-dione | 45 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)CN1OC(NC1=O)=O)=O)F | C23H27FN4O4
